US07897764B2
To a solution of 5-(3-nitro-phenoxy)-pentylamine (867 mg, 3.87 mmol) in dichloromethane (5 mL) was added 1-naphthyl isothiocyanate (788 mg, 4.26 mmol) at room temperature. The reaction mixture was stirred at room temperature overnight. After removal of the solvent, the residue was purified by silica gel column chromatography to give 1-naphthalen-1-yl-3-[5-(3-nitro-phenoxy) -pentyl]-thiourea (1.3 g, 3.18 mmol, 82%) as a yellow gel.

reactant | 5-(3-nitro-phenoxy)-pentylamine | 3.87 mmol, 867 mg | [N+](=O)([O-])C=1C=C(OCCCCCN)C=CC1 | C11H16N2O3
reactant | 1-naphthyl isothiocyanate | 4.26 mmol, 788 mg | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-naphthalen-1-yl-3-[5-(3-nitro-phenoxy) -pentyl]-thiourea | 3.18 mmol, 1.3 g, 82% | C1(=CC=CC2=CC=CC=C12)NC(=S)NCCCCCOC1=CC(=CC=C1)[N+](=O)[O-] | C22H23N3O3S
